US07151109B2
Preparation of N,N-diethyl-7-iodopyrazolo[1,5-a]pyridin-3-amine
A solution of 3-diethylaminopyrazolo[1,5-a]pyridine (0.57 g, 3.00 mmol) in THF (5.00 mL) was cooled to −78° C. and treated with a solution of n-butyl lithium (1.20 M in hexanes, 3.25 mL, 3.90 mmol). The reaction was stirred for 30 minutes then treated with a solution of 1,2-diiodoethane (1.01 g, 3.60 mmol) in THF (10 mL). The reaction was stirred at −78° C. for 3 hours then quenched with saturated NaHCO3 at −78° C. and warmed to room temperature. The reaction was diluted with water and extracted twice with methylene chloride, dried over MgSO4 and concentrated in vacuo to give a dark green oil which was subjected to column chromatography (5% ethyl acetate/hexane) to give 0.59 g (63%) of a yellow oil as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.92 (s, 1H), 7.58 (dd, J=8.8, 1.2 Hz, 1H), 7.31 (d, J=8.0 Hz, 1H), 6.81–6.76 (m, 1H), 3.13 (q, J=7.1 Hz, 4H), 1.06 (t, J=7.1 Hz, 6H); MS (EI) m/z 316.14 (M++H).

reactant | 3-diethylaminopyrazolo[1,5-a]pyridine | 3.00 mmol, 0.57 g | C(C)N(C=1C=NN2C1C=CC=C2)CC | C11H15N3
reactant | n-butyl lithium | 3.90 mmol, 1.20 M, 3.25 mL | C(CCC)[Li]
reactant | 1,2-diiodoethane | 3.60 mmol, 1.01 g | ICCI | C2H4I2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N,N-diethyl-7-iodopyrazolo[1,5-a]pyridin-3-amine | C(C)N(C=1C=NN2C1C=CC=C2I)CC | C11H14IN3
